US06875765B2
A mixture of 7.69 g (31 mmol) 3-amino-4,4-diethoxy-butyric acid tert-butyl ester, 4.2 mL (33 mmol) N-ethylmorpholine, 0.37 g (3 mmol) N N-dimethylaminopyridine was stirred in 75 mL dichloromethane and cooled to 0° C. in an ice/water bath. 10.1 g (31 mmol) of % 2-benzyloxy-4-nitro-benzenesulfonyl chloride was added in one portion and the resulting mixture was stirred at room temperature 18 h. TLC analysis indicated complete reaction. The reaction mixture was transferred to a separatory funnel and washed with water and then brine. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to a pale yellow oil. The oil was purified over silica eluting with 1:1 ethyl acetate:hexanes to give 11.7 g (21.7 mmol, 70%) (S)-3-(2-benzyloxy-4-nitro-benzenesulfonylamino)-4,4-diethoxy-butyric acid tert-butyl ester as a pale yellow oil. MS (APCI) m/z 538.1 (M−1).

reactant | 3-amino-4,4-diethoxy-butyric acid tert-butyl ester | 31 mmol, 7.69 g | C(C)(C)(C)OC(CC(C(OCC)OCC)N)=O | C12H25NO4
reactant | N-ethylmorpholine | 33 mmol, 4.2 mL | C(C)N1CCOCC1 | C6H13NO
reactant | N-dimethylaminopyridine | CN(N1CC=CC=C1)C | C7H12N2
reactant | 2-benzyloxy-4-nitro-benzenesulfonyl chloride | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)Cl | C13H10ClNO5S
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | (S)-3-(2-benzyloxy-4-nitro-benzenesulfonylamino)-4,4-diethoxy-butyric acid tert-butyl ester | 21.7 mmol, 11.7 g, 70% | C(C)(C)(C)OC(C[C@@H](C(OCC)OCC)NS(=O)(=O)C1=C(C=C(C=C1)[N+](=O)[O-])OCC1=CC=CC=C1)=O | C25H34N2O9S
